US06384080B1
To a solution of 5-cyano-2-(cyclopentylamino)benzoic acid (40.0 mg) in anhydrous tetrahydrofuran (2 mL) was added 1.5 M diisobutylaluminium hydride hexane solution (0.34 mL) under dry ice-acetone cooling, and the mixture was stirred for an hour at −78° C. and then for 4 hours at ambient temperature. The reaction was quenched by addition of methanol and an aqueous saturated ammonium chloride solution. After stirring at ambient temperature for a half hour, the mixture was partitioned with 5% sulfuric acid and chloroform. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a preparative silica gel chromatography with 10% methanol in chloroform to give 2-(cyclopentylamino)-5-formylbenzoic acid (25.0 mg) as pale orange powders.

reactant | 5-cyano-2-(cyclopentylamino)benzoic acid | 40.0 mg | C(#N)C=1C=CC(=C(C(=O)O)C1)NC1CCCC1 | C13H14N2O2
reactant | diisobutylaluminium hydride hexane | 1.5 M, 0.34 mL | CCCCCC.[H-].C(C(C)C)[Al+]CC(C)C
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-(cyclopentylamino)-5-formylbenzoic acid | 25.0 mg | C1(CCCC1)NC1=C(C(=O)O)C=C(C=C1)C=O | C13H15NO3
